### PR TITLE
chore: goalpost move on exists_standardRepr

### PR DESCRIPTION
**Pull request by tristan-f-r**
we move the goalpost for exists_standardRepr, using the fact that every matroid has at least one base

### CODE REVIEW

File: Seymour/Matroid/Constructors/StandardRepresentation.lean [hunk 1]
```diff
@@ -110,18 +110,19 @@ lemma StandardRepr.toVectorMatroid_indep_iff_submatrix'' [DivisionRing R] (S : S
...
-/-- Every vector matroid has a standard representation. -/
-lemma VectorMatroid.exists_standardRepr [DivisionRing R] (M : VectorMatroid α R) :
-    ∃ S : StandardRepr α R, S.toVectorMatroid = M := by
-  sorry
-
 /-- Every vector matroid has a standard representation whose rows are a given base. -/
 lemma VectorMatroid.exists_standardRepr_isBase [DivisionRing R] {B : Set α}
     (M : VectorMatroid α R) (hMB : M.toMatroid.IsBase B) :
-    ∃ S : StandardRepr α R, M.X = B ∧ S.toVectorMatroid = M := by
+    ∃ S : StandardRepr α R, S.X = B ∧ S.toVectorMatroid = M := by
```
Comment (tristan-f-r) [inline Seymour/Matroid/Constructors/StandardRepresentation.lean:116]: It should be noted that this PR also corrects `M.X` -> `S.X` as the intended definition - the previous statement is not true.

**Comment by tristan-f-r** [comment]
A separate PR should be opened to correct the definition of `exists_standardRepr_isBase`
